US06114532
b. 4-(cyclohexylcarbonyl)-2-nitro-chlorobenzene
To 50 ml fuming nitric acid are added batchwise at -25° C. 6.4 g (28.8 mmol) of 4-(cyclohexylcarbonyl)-chlorobenzene. The solution is stirred for 10 minutes at -25° C. and then poured onto ice water. The precipitated product is suction filtered, washed with water and dried.

reactant | 4-(cyclohexylcarbonyl)-chlorobenzene | 28.8 mmol, 6.4 g | C1(CCCCC1)C(=O)C1=CC=C(C=C1)Cl | C13H15ClO
reactant | nitric acid | 50 ml | [N+](=O)(O)[O-] | HNO3
product | 4-(cyclohexylcarbonyl)-2-nitro-chlorobenzene | C1(CCCCC1)C(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C13H14ClNO3
